US05602250
c) 2,3-Dihydro-6-hydroxymethylimidazo[2,1-b]thiazole-1,1-dioxide
6- Acetoxymethyl-2,3-dihydroimidazo[2,1-b]thiazole-1,1-dioxide (305 mg, 1.33 mmol) was treated with methanolic ammonia (prepared by saturating methanol (20 ml) with ammonia gas then diluting with more methanol (20 ml)) at room temperature. After 2.5 h, the volatiles were removed under reduced pressure and the residue triturated with diethyl ether and the resulting solid collected by filtration, washed with diethyl ether and dried in air (207 mg, 83%) (Found: M+ 188.0256. C6H8N2O3S requires M 188.0256); νmax (nujol) 3354, 1377, 1325 and 1133 cm-1 ; δH [250 MHz; (CD3)2SO]4.14 (2H, t, J 6 Hz), 4.40 (2H, d, J 6 Hz), 4.54 (2H, t, J 6 Hz), 5.20 (1H, t, J 6 Hz, exchangeable), 7.36 (1H, s).

reactant | 6- Acetoxymethyl-2,3-dihydroimidazo[2,1-b]thiazole-1,1-dioxide | 1.33 mmol, 305 mg | C(C)(=O)OCC=1N=C2S(CCN2C1)(=O)=O | C8H10N2O4S
reactant | ammonia | N | H3N
product | 2,3-Dihydro-6-hydroxymethylimidazo[2,1-b]thiazole-1,1-dioxide | OCC=1N=C2S(CCN2C1)(=O)=O | C6H8N2O3S
